US04866064
In a mixture of 20 ml of water and 30 ml of ethanol, 7.3 g of thiophenol and 4.5 g of potassium hydroxide were added. To this solution, 11.7 g of 2-amino-5-bromo-1,3,4-thiadiazole was added, and the mixture was heated to 82° C. and stirred for 2 hours. After cooling, water was added and the mixture was filtered. The residuewas washed with water and n-hexane respectively, dried under reduced pressure, and thus 10.8 g of 2-amino-5-phenylthio-1,3,4-thiadiazole was obtained.

reactant | thiophenol | 7.3 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium hydroxide | 4.5 g | [OH-].[K+]
reactant | 2-amino-5-bromo-1,3,4-thiadiazole | 11.7 g | NC=1SC(=NN1)Br | C2H2BrN3S
solvent | water | 20 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-amino-5-phenylthio-1,3,4-thiadiazole | 10.8 g, Yield 77% | NC=1SC(=NN1)SC1=CC=CC=C1 | C8H7N3S2
